US04711895
30 ml of tetrahydrofuran was put in a reaction tube and cooled to -78° C., and n-butyllithium (as a 1.6M hexane solution; 13.8 ml, 22.08 mmmoles) was added dropwise. Then a solution of 4-hydroxy-2-cyclopentenone (987 mg; 10.1 mmoles) in 20 ml of tetrahydrofuran was added dropwise over about 20 minutes. The reaction mixture was washed with 8 ml of tetrahydrofuran. After 60 minutes, 40 ml of a saturated aqueous solution of ammonium chloride was added, and the mixture was vigorously shaken. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (20 ml×6). The extracts were dried over anhydrous sodium sulfate, filtered and concentrated. The residue was chromatographed on a silica gel column (Merck silica gel 30 g; hexane:ethyl acetate=4:1) to obtain 1.55 g (yield about 90%) of 4-butylcyclopent-2-ene-1,4-diol.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 1.6M | CCCCCC | C6H14
reactant | 4-hydroxy-2-cyclopentenone | 10.1 mmoles, 987 mg | OC1C=CC(C1)=O | C5H6O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-butylcyclopent-2-ene-1,4-diol | 1.55 g, yield about 90% | C(CCC)C1(C=CC(C1)O)O | C9H16O2
